US03959259
169.2 g. (0.328 moles + 20 percent) of a 15 percent solution of butyl lithium in hexane is cooled to -60° under a nitrogen atmosphere. At this temperature, a solution of 28.9 g. (0.164 moles) of 3-(phenylmethyl)-1,2,4-oxadiazol-5(4H)-one in 360 ml. of anhydrous tetrahydrofuran is added dropwise with stirring over a period of about 2 hours. A proportionate stream of carbon dioxide is passed through the resulting suspension for a period of 2 hours. The cold bath is removed and the solution is permitted to come to room temperature. The solution is concentrated in a rotary evaporator, the residue is treated with water, the aqueous solution is extracted with ether and the aqueous phase is acidified with 2N hydrochloric acid. This acidified aqueous phase is extracted several times with ether. The combined ether phases are dried with magnesium sulfate and the ether is evaporated. The residue is crystallized by trituration with petroleum ether. 23.9 g. of 4,5-dihydro-5-oxo-α-phenyl-1,2,4-oxadiazole-3-acetic acid are obtained, m.p. 140°-141° (dec.). The product is purified by dissolving in a small amount of water with the addition of sodium bicarbonate and again precipitating with dilute hydrochloric acid. The precipitated product melts at 142°-143° (dec.).

reactant | butyl lithium | C(CCC)[Li]
reactant | 3-(phenylmethyl)-1,2,4-oxadiazol-5(4H)-one | 0.164 moles | C1(=CC=CC=C1)CC1=NOC(N1)=O | C9H8N2O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | hexane | CCCCCC | C6H14
product | 4,5-dihydro-5-oxo-α-phenyl-1,2,4-oxadiazole-3-acetic acid | O=C1NC(=NO1)C(C(=O)O)C1=CC=CC=C1 | C10H8N2O4
